Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L shoulder pain
 
Major Surgical or Invasive Procedure:
L proximal humerus resection with reconstruction via ___ RTSA 
and latisumus dorsi rotational flap

 
History of Present Illness:
Ms. ___ is a ___ female with L proximal humerus 
malignant peripheral nerve sheath tumor.  She is coming today 
for definitive local
control in aim of cure of this disease.  The patient signed
informed consent in the outpatient setting.  Discussed risks
including infection, wound complications, need for additional
surgery, involvement of neurovascular function, need for a
vascular bypass and other reperfusion interventions.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Left Shoulder Synovial Sarcoma
- ___ Increase right shoulder pain and swelling
- ___ Ultrasound showed a large ill-defined masslike
structure in the left shoulder/upper arm without evidence of 
deep
vein thrombosis.
- ___ MRI showed a heterogeneously enhancing soft tissue mass
measuring 11.9 x 10.7 x 9.8 cm seen circumferentially around the
left humeral head, neck, and proximal shaft. There was extension
of mass into the axilla and multiple surrounding muscles. There
was associated abnormal marrow signal in the proximal humerus.
- ___ Ultrasound guided core needle biopsy
- ___ Bone Scan trace uptake in the left humeral head 
without
other abnormality.
- ___ CT Chest on the same date showed several non-specific
lung nodules all measuring less than ___s increased
number and size of left axillary lymph nodes.
- Screening mammogram that showed a 3 mm left
breast lesion.
- ___ Week 1 Doxorubicin and Radiation
- ___ Week 2 Doxorubicin and Radiation
- ___ completed week 4 doxorubicin/RT
PAST MEDICAL HISTORY:
-Hyperlipidemia.
-Arthritis.
-Left humerus fracture ___.
-s/p Left total hip replacement ___ ___.
-s/p Right ACL repair ___.
-s/p C-sections x2 in ___ and ___.
 
Social History:
___
Family History:
Mother - Lung cancer (smoker), stroke, hypertension, depression,
alcohol abuse.
Father - Lung cancer (smoker), hypertension, gout.
 
Physical Exam:
NAD, AOX3, resting comfortably
LUE: 
-Dresssing c/d/I. Wound with improvement without erythema
- Sling in place. Motor intact to EPL/FPL/grip. SILT r/m/u 
distribution with intermittent tingling. 
- 2+ radial pulse

 
Pertinent Results:
___ 08:50AM BLOOD WBC-7.1 RBC-2.92* Hgb-8.5* Hct-26.9* 
MCV-92 MCH-29.1 MCHC-31.6* RDW-16.4* RDWSD-55.1* Plt ___
___ 08:50AM BLOOD Glucose-91 UreaN-7 Creat-0.4 Na-136 K-3.4 
Cl-99 HCO3-28 AnGap-12
 
Brief Hospital Course:
Mrs. ___ is a ___ who was admitted post-operatively 
following resection of L proximal humerus with subsequent bony 
reconstruction via APC with RTSA and soft tissue reconstruction 
via latissumus flap with plastic surgery. She was admitted 
post-operatively to the ICU intubated for respiratory management 
as she received 4U PRBC intraop in addition to a large amount of 
fluid. She was extubated on POD#2 and was subsequently 
transferred out of the ICU on POD#. She had confusion overnight 
stated "not feel safe on this floor" oriented to person, ___, 
but thinks in ___, knows year but not month. This resolved 
following decrease in Benadryl and giving Seroquel. She was seen 
by ___ who recommended Acute rehab given level of deconditioning. 
On POD#6 she was medically cleared for discharge. Her pain was 
controlled on PO medications, voiding independently, tolerating 
PO and had a bowel movement. She was discharged when a rehab bed 
was available.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
3. Prochlorperazine 10 mg PO Q6H:PRN nausea 
4. LORazepam 0.5 mg PO DAILY:PRN anxiety 
5. Docusate Sodium 100 mg PO BID 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. Senna 8.6 mg PO BID:PRN constipation 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY allergies 
9. Silver Sulfadiazine 1% Cream 1 Appl TP BID 
10. OxyCODONE (Immediate Release) 10 mg PO BID:PRN Pain - Severe 

11. OxyCODONE SR (OxyconTIN) 20 mg PO Q8H 
12. ___ ___ UNIT PO Q6H:PRN thrush 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY Duration: 4 Weeks  
2.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth four times daily Disp 
#*56 Tablet Refills:*0 
3.  Levofloxacin 500 mg PO Q24H Duration: 2 Weeks 
RX *levofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q6H pain  
5.  LORazepam 0.5 mg PO TID anxiety  
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0 
7.  OxyCODONE SR (OxyconTIN) 20 mg PO BID 
RX *oxycodone [OxyContin] 20 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*30 Tablet Refills:*0 
8.  Docusate Sodium 100 mg PO BID  
9.  Fluticasone Propionate NASAL 1 SPRY NU DAILY allergies  
10.  ___ ___ UNIT PO Q6H:PRN thrush  
11.  Ondansetron 8 mg PO Q8H:PRN nausea  
12.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
13.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
14.  Senna 8.6 mg PO BID:PRN constipation  
15.  Silver Sulfadiazine 1% Cream 1 Appl TP BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L proximal humerus malignant peripheral nerve sheath tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
NWB LUE to remain in sling except for hygiene. 
Dressings: 
-L shoulder dressing change daily with non-adherent dressing 
with abdominal pad secured with tape.
-L leg: Continue to keep covered with same Xeroform. Allow to 
dry out and then it will fall off on own.
-Back incision dry gauze secured with tape
Hygiene: ___ remove sling for sponge bathing but then place arm 
back in sling following. No showering until cleared by Plastic 
Surgery. ___ sponge bath in the meantime avoiding wetting 
surgical sites. 
 
Followup Instructions:
___